US08445501B2
4-(5-Cyclopropylmethoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid [(S)-1-(2-methoxy-ethanoyl)-piperidin-3-yl]amide
Starting from 4-(5-Cyclopropylmethoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (S)-piperidin-3-ylamide (example A148) and methoxy-acetyl chloride the title compound is obtained as colorless solid.

reactant | 4-(5-Cyclopropylmethoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (S)-piperidin-3-ylamide | N1C[C@H](CCC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=CC=1OCOC12)OCC1CC1 | C23H25N5O4
reactant | methoxy-acetyl chloride | COCC(=O)Cl | C3H5ClO2
product | 4-(5-Cyclopropylmethoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid [(S)-1-(2-methoxy-ethanoyl)-piperidin-3-yl]amide | COCC(=O)N1C[C@H](CCC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=CC=1OCOC12)OCC1CC1 | C26H29N5O6
